US07304081B2
Step 2. methyl 1-[4-(chloroacetyl)phenyl]cyclopropanecarboxylate
Aluminum trichloride (7.9 g, 0.060 mol) was added in portions to a mixture of methyl 1-phenylcyclopropanecarboxylate (3.5 g, 0.020 mol) and chloroacetyl chloride (2.0 mL, 0.026 mol) in carbon disulfide (40 mL, 0.7 mol) at 15-25° C. and then the reaction mixture was stirred at room temperature for 2 hours. The mixture was poured into conc. HCl (10 mL) in ice (100 g) and then extracted with ether. The ether extract was washed with brine, dried and concentrated. The product was purified by CombiFlash using hexane/EtOAc (max.EA 20%). The final product was analysized by 1H NMR, which showed that the product was a mixture of para and meta substituted isomers with a ratio of 3:2.

reactant | Aluminum trichloride | 0.060 mol, 7.9 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl 1-phenylcyclopropanecarboxylate | 0.020 mol, 3.5 g | C1(=CC=CC=C1)C1(CC1)C(=O)OC | C11H12O2
reactant | chloroacetyl chloride | 0.026 mol, 2.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | carbon disulfide | 0.7 mol, 40 mL | C(=S)=S | CS2
solvent | HCl | 10 mL | Cl | ClH
product | methyl 1-[4-(chloroacetyl)phenyl]cyclopropanecarboxylate | ClCC(=O)C1=CC=C(C=C1)C1(CC1)C(=O)OC | C13H13ClO3
